* E81/F-G-1 DC-link HF ripple share — 50kw:FB n2/Lr3.56u/Cr11x33n/Lm35.6u/Coss2500p corner SER250-full-bus764 VBUS=764 VBANK=250 fsw=203k d=0.343
.model DREC D(Is=1e-9 N=1.8 Rs=0.022)
.model DBODY D(Is=1e-12 N=4 Rs=0.03 Cjo=9.75034e-9 Vj=2 M=0.5)
* ---- DC link (E81/F-G-1): ideal source behind 50 uH per rail, MID grounded; 8 cans/half; 12 x 1uF bridge film; damper yes; stud 40 nH loop
VSP src_p 0 DC 382
LSP src_p dcp 0.00005 ic=6.64403e+1
VSN src_n 0 DC -382
LSN src_n dcn 0.00005 ic=-6.64403e+1
RMID mid 0 1u
VPC0 dcp pa0 DC 0
RPC0 pa0 pb0 0.15
LPC0 pb0 pc0 2e-8
CPC0 pc0 mid 0.00047 ic=382
VPC1 dcp pa1 DC 0
RPC1 pa1 pb1 0.15
LPC1 pb1 pc1 2e-8
CPC1 pc1 mid 0.00047 ic=382
VPC2 dcp pa2 DC 0
RPC2 pa2 pb2 0.15
LPC2 pb2 pc2 2e-8
CPC2 pc2 mid 0.00047 ic=382
VPC3 dcp pa3 DC 0
RPC3 pa3 pb3 0.15
LPC3 pb3 pc3 2e-8
CPC3 pc3 mid 0.00047 ic=382
VPC4 dcp pa4 DC 0
RPC4 pa4 pb4 0.15
LPC4 pb4 pc4 2e-8
CPC4 pc4 mid 0.00047 ic=382
VPC5 dcp pa5 DC 0
RPC5 pa5 pb5 0.15
LPC5 pb5 pc5 2e-8
CPC5 pc5 mid 0.00047 ic=382
VPC6 dcp pa6 DC 0
RPC6 pa6 pb6 0.15
LPC6 pb6 pc6 2e-8
CPC6 pc6 mid 0.00047 ic=382
VPC7 dcp pa7 DC 0
RPC7 pa7 pb7 0.15
LPC7 pb7 pc7 2e-8
CPC7 pc7 mid 0.00047 ic=382
LVSP dcp vsP 6e-8
VVP0 vsP vPa0 DC 0
RVP0 vPa0 vPb0 0.005
LVP0 vPb0 vPc0 1.5e-8
CVP0 vPc0 mid 0.000001 ic=382
VVP1 vsP vPa1 DC 0
RVP1 vPa1 vPb1 0.005
LVP1 vPb1 vPc1 1.5e-8
CVP1 vPc1 mid 0.000001 ic=382
VVP2 vsP vPa2 DC 0
RVP2 vPa2 vPb2 0.005
LVP2 vPb2 vPc2 1.5e-8
CVP2 vPc2 mid 0.000001 ic=382
VNC0 mid na0 DC 0
RNC0 na0 nb0 0.15
LNC0 nb0 nc0 2e-8
CNC0 nc0 dcn 0.00047 ic=382
VNC1 mid na1 DC 0
RNC1 na1 nb1 0.15
LNC1 nb1 nc1 2e-8
CNC1 nc1 dcn 0.00047 ic=382
VNC2 mid na2 DC 0
RNC2 na2 nb2 0.15
LNC2 nb2 nc2 2e-8
CNC2 nc2 dcn 0.00047 ic=382
VNC3 mid na3 DC 0
RNC3 na3 nb3 0.15
LNC3 nb3 nc3 2e-8
CNC3 nc3 dcn 0.00047 ic=382
VNC4 mid na4 DC 0
RNC4 na4 nb4 0.15
LNC4 nb4 nc4 2e-8
CNC4 nc4 dcn 0.00047 ic=382
VNC5 mid na5 DC 0
RNC5 na5 nb5 0.15
LNC5 nb5 nc5 2e-8
CNC5 nc5 dcn 0.00047 ic=382
VNC6 mid na6 DC 0
RNC6 na6 nb6 0.15
LNC6 nb6 nc6 2e-8
CNC6 nc6 dcn 0.00047 ic=382
VNC7 mid na7 DC 0
RNC7 na7 nb7 0.15
LNC7 nb7 nc7 2e-8
CNC7 nc7 dcn 0.00047 ic=382
LVSN mid vsN 6e-8
VVN0 vsN vNa0 DC 0
RVN0 vNa0 vNb0 0.005
LVN0 vNb0 vNc0 1.5e-8
CVN0 vNc0 dcn 0.000001 ic=382
VVN1 vsN vNa1 DC 0
RVN1 vNa1 vNb1 0.005
LVN1 vNb1 vNc1 1.5e-8
CVN1 vNc1 dcn 0.000001 ic=382
VVN2 vsN vNa2 DC 0
RVN2 vNa2 vNb2 0.005
LVN2 vNb2 vNc2 1.5e-8
CVN2 vNc2 dcn 0.000001 ic=382
LSTP dcp stp 2e-8
RSTP stp busf 0.0005
LSTN busnf stn 2e-8
RSTN stn dcn 0.0005
VBF0 busf bfa0 DC 0
RBF0 bfa0 bfb0 0.005
LBF0 bfb0 bfc0 1.5e-8
CBF0 bfc0 busnf 0.000001 ic=764
VBF1 busf bfa1 DC 0
RBF1 bfa1 bfb1 0.005
LBF1 bfb1 bfc1 1.5e-8
CBF1 bfc1 busnf 0.000001 ic=764
VBF2 busf bfa2 DC 0
RBF2 bfa2 bfb2 0.005
LBF2 bfb2 bfc2 1.5e-8
CBF2 bfc2 busnf 0.000001 ic=764
VBF3 busf bfa3 DC 0
RBF3 bfa3 bfb3 0.005
LBF3 bfb3 bfc3 1.5e-8
CBF3 bfc3 busnf 0.000001 ic=764
VBF4 busf bfa4 DC 0
RBF4 bfa4 bfb4 0.005
LBF4 bfb4 bfc4 1.5e-8
CBF4 bfc4 busnf 0.000001 ic=764
VBF5 busf bfa5 DC 0
RBF5 bfa5 bfb5 0.005
LBF5 bfb5 bfc5 1.5e-8
CBF5 bfc5 busnf 0.000001 ic=764
VBF6 busf bfa6 DC 0
RBF6 bfa6 bfb6 0.005
LBF6 bfb6 bfc6 1.5e-8
CBF6 bfc6 busnf 0.000001 ic=764
VBF7 busf bfa7 DC 0
RBF7 bfa7 bfb7 0.005
LBF7 bfb7 bfc7 1.5e-8
CBF7 bfc7 busnf 0.000001 ic=764
VBF8 busf bfa8 DC 0
RBF8 bfa8 bfb8 0.005
LBF8 bfb8 bfc8 1.5e-8
CBF8 bfc8 busnf 0.000001 ic=764
VBF9 busf bfa9 DC 0
RBF9 bfa9 bfb9 0.005
LBF9 bfb9 bfc9 1.5e-8
CBF9 bfc9 busnf 0.000001 ic=764
VBF10 busf bfa10 DC 0
RBF10 bfa10 bfb10 0.005
LBF10 bfb10 bfc10 1.5e-8
CBF10 bfc10 busnf 0.000001 ic=764
VBF11 busf bfa11 DC 0
RBF11 bfa11 bfb11 0.005
LBF11 bfb11 bfc11 1.5e-8
CBF11 bfc11 busnf 0.000001 ic=764
VDMP busf dmpa DC 0
RDMP dmpa dmpb 0.33
CDMP dmpb busnf 0.0000022 ic=764
VBR busf bus DC 0
VBRN busn busnf DC 0


VGHA ghA 0 PULSE(0 1 0.00000e+0 20n 20n 2.32305e-6 4.92611e-6)
VGLA glA 0 PULSE(0 1 2.46305e-6 20n 20n 2.32305e-6 4.92611e-6)
VHSA bus bhA DC 0
BSHA bhA legA I=v(bhA,legA)*(2e-5+v(ghA)*57.14285714285714)
BSLA legA busn I=v(legA,busn)*(2e-5+v(glA)*57.14285714285714)
DBHA legA bhA DBODY
DBLA busn legA DBODY
CSHA bhA legA 2.00000e-9
CSLA legA busn 2.00000e-9

VGHB ghB 0 PULSE(0 1 1.68966e-6 20n 20n 2.32305e-6 4.92611e-6)
VGLB glB 0 PULSE(0 1 4.15271e-6 20n 20n 2.32305e-6 4.92611e-6)
VHSB bus bhB DC 0
BSHB bhB legB I=v(bhB,legB)*(2e-5+v(ghB)*57.14285714285714)
BSLB legB busn I=v(legB,busn)*(2e-5+v(glB)*57.14285714285714)
DBHB legB bhB DBODY
DBLB busn legB DBODY
CSHB bhB legB 2.00000e-9
CSLB legB busn 2.00000e-9
VSP2 legA tk DC 0
CR tk tkb 3.63000e-7 ic=0
LR tkb pri 3.56000e-6
RW pri prib 0.004
LM prib legB 3.56000e-5
LS1 s1w s1n 8.90000e-6
RW1 s1w s1p 0.002
VSA s1p s1q DC 0
LS2 s2w s2n 8.90000e-6
RW2 s2w s2p 0.002
VSB s2p s2q DC 0
KA LM LS1 0.9999
KB LM LS2 0.9999
KC LS1 LS2 0.9999
RB1 s1q 0ba 1meg
RB2 s1n 0ba 1meg
RB3 s2q 0bb 1meg
RB4 s2n 0bb 1meg
DA1 s1q bkA DREC
DA2 0ba s1q DREC
DA3 s1n bkA DREC
DA4 0ba s1n DREC
DB1 s2q bkB DREC
DB2 0bb s2q DREC
DB3 s2n bkB DREC
DB4 0bb s2n DREC
VBKA bkA 0ba DC 250
VBKB bkB 0bb DC 250
RTA 0ba 0 1u
RTB 0bb 0 1u
.tran 20n 4.00000e-4 3.40887e-4 10n uic
.option method=gear reltol=1e-3 abstol=1e-6 vntol=1u itl4=100
.control
set filetype=ascii
run
wrdata dclink-50kw-SER250-full-bus764-film12u-damped-stud40n.out i(VBR) i(VPC0) i(VVP0) i(VBF0) v(bus,busn) i(VBKA) i(VBKB) i(LSTP)
quit
.endc
.end